US06258817B1
N-(3-methoxy-5-methylpyrazin-2-yl)-2-phenylpyridine-3-sulphonamide
1H NMR (d6-DMSO): 2.2 (s, 3H), 3.6 (s, 3H), 7.3-7.55 (m, 6H), 7.6 (dd, 1H), 8.4 (dd, 1H), 8.8 (dd, 1H), 10.5 (br s, 1H); mass spectrum (positive fast atom bombardment (+ve FAB), methanol/m-nitrobenzyl alcohol (NBA)): 357 (M+H)+; starting from N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)-2-phenylpyridine-3-sulphonamide; 1H NMR (d6-DMSO): 0.6 (d, 6H), 1.7 (m, 1H), 2.55 (s, 3H), 3.7 (d, 2H), 3.9 (s, 3H), 7.4-7.55 (m, 5H), 7.8 (dd, 1H), 8.9 (dd, 1H), 8.95 (dd, 1H); mass spectrum (+ve CI): 457 (M+H)+; itself obtained using an analogous procedure to that described in Example 1, part (iii) but using phenylboronic acid.

reactant | methanol m-nitrobenzyl alcohol | CO.[N+](=O)([O-])C=1C=C(CO)C=CC1
reactant | N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)-2-phenylpyridine-3-sulphonamide | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=CC=C1)C1=NC=C(N=C1OC)C | C22H24N4O5S
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | N-(3-methoxy-5-methylpyrazin-2-yl)-2-phenylpyridine-3-sulphonamide | COC=1C(=NC=C(N1)C)NS(=O)(=O)C=1C(=NC=CC1)C1=CC=CC=C1 | C17H16N4O3S
